Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fever
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ w SLE on low dose pred/hydroxychloroquine, recent B
breast reduction who presents with fever. Patient had
uncomplicated B breast reduction surgery for dorsalgia on ___
(___) and had been healing from that. She has been taking APAP
daily for pain and over the last few days has had worsening
erythema around both breasts without discharge but with
increasing pain and warmth in that area. Day prior to admission
was feeling well but suddenly began having HA (frontal/temporal)
without photophobia or significant neck stiffness. This is
similar to her usual HAs but much more prominent. She took APAP
and ibuprofen and cool pack but still felt HA and temp was 99.6
after the meds. She also tried increasing her home pred to 4mg.
She also had an episode of nausea and vomiting in the car on 
ride
to hospital, though she thinks that could have been motion
sickness (non bloody, threw up her banana). 
She denies confusion, vision changes, mouth pain, tooth pain,
rhinorrhea (beyond baseline), cough, wheeze, chest pain, abd
pain, diarrhea, dysuria, joint pain (beyond slight worsening of
baseline hip and back pain), joint swelling, other rash. 
She endorses worsening of her back pain when she had the HA but
without ___ weakness/numbness. She also reports worsening of her
baseline hip pain (which is in her greater trochnateric bursa).
She does not feel like she is having a lupus flare. 

In ED, initial vitals 96.7 109 115/77 16 99%RA. Temp rose to 101
(with HR 77). Vitals remained AVSS otherwise. Noted to be tired
appearing. CXR, BCx, labs, LP (0 WBCs, 0 RBCs), breast
ultrasound. Put on vanc/CTX empirically for meningitis. Plastics
consulted. Admitted to medicine.

She reports that since being in the ED the erythema on her 
breast
is less prominent and she has clearance of her HA and feeling
better. 

ROS: positive or negative as above, otherwise negative in 12
systems

 
Past Medical History:
SLE (diagnosed ___, ___ positive, DSDNA, ___, RNP positive w
abnl complements; previously treated with
ritux/cellcept/Cytoxan/MTX/Imuran/cyclosporine/plaquenil);
currently on slow pred taper
sicca syndrome
an episode of steroid induced mania
depression
GERD
nasal surgery
cataracts and glaucoma
rhinitis
trochanteric bursitis, last injection about a year ago
B breast reduction ___

 
Social History:
___
Family History:
mother DM/HTN
father gout
otherwise reviewed and non-contributory to current presentation

 
Physical Exam:
ADMISSION EXAM

Constitutional: VS reviewed, NAD, well nourished
HEENT: eyes anicteric, normal hearing, nose unremarkable, MMM
without exudate
CV: RRR no mrg
Resp: CTAB
GI: sntnd, NABS
GU: no foley, neg CVAT
MSK: no synovitis, B tenderness over trochanteric bursae without
erythema/warmth, no spinal tenderness, no swollen joints
Ext: wwp, neg edema in BLEs
Skin: B breasts with erythema (see my OMR photo), no nipple
discharge, some peeling of red breast skin, approx. 5.5x7.5cm on
R and 5x7 on L, incisions are healing without discharge but
erythema includes area around incisions, erythema in sharp in
some places and not in others, some streaking type redness too
Neuro: A&O grossly, MAEE, no facial droop, neck supple
Psych: normal affect, pleasant

Discharge Physical Exam:
========================
Constitutional: VS reviewed, NAD
HEENT: eyes anicteric, normal hearing, nose unremarkable, MMM
without exudate
CV: RRR no mrg
Resp: CTAB
GI: sntnd, NABS
GU: no foley, neg CVAT
MSK: no synovitis
Ext: wwp, neg edema in BLEs
Skin: breasts with mostly resolved erythema
Neuro: A&O grossly, MAEE, no facial droop
Psych: normal affect, pleasant

 
Pertinent Results:
ADMISSION RESULTS

___ 10:09PM BLOOD WBC-15.1* RBC-4.45 Hgb-12.2 Hct-38.9 
MCV-87 MCH-27.4 MCHC-31.4* RDW-12.9 RDWSD-40.8 Plt ___
___ 10:09PM BLOOD Neuts-88.1* Lymphs-8.1* Monos-3.1* 
Eos-0.1* Baso-0.3 Im ___ AbsNeut-13.30* AbsLymp-1.22 
AbsMono-0.47 AbsEos-0.02* AbsBaso-0.04
___ 09:10AM BLOOD ___ PTT-29.0 ___
___ 09:10AM BLOOD ___ 10:09PM BLOOD Glucose-100 UreaN-8 Creat-0.7 Na-138 
K-4.0 Cl-102 HCO3-25 AnGap-11
___ 12:45AM BLOOD ALT-32 AST-61* AlkPhos-37 TotBili-0.4
___ 06:00AM BLOOD Calcium-9.1 Phos-3.8 Mg-2.0
___ 12:45AM BLOOD CRP-37.7*
___ 09:10AM BLOOD C3-126 C4-23
___ 08:43PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 08:43PM URINE UCG-NEGATIVE
___ 02:06AM CEREBROSPINAL FLUID (CSF) TNC-0 RBC-0 Polys-2 
___ ___ 02:06AM CEREBROSPINAL FLUID (CSF) TotProt-14* 
Glucose-64
___ 12:44AM OTHER BODY FLUID FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE

___ CSF;SPINAL FLUID Enterovirus 
Culture-PRELIMINARY EMERGENCY WARD 
___ CSF;SPINAL FLUID GRAM STAIN-FINAL; FLUID 
CULTURE-PRELIMINARY EMERGENCY WARD 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
EMERGENCY WARD 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
EMERGENCY WARD 

CXR PA/LAT:
IMPRESSION:  
  
No acute intrathoracic process. 

B BREAST US:
IMPRESSION:  
Bilateral fluid collections in the breasts near the surgical 
incision sites, may represent postsurgical seromas, however 
cannot exclude superinfection in the correct clinical setting.  
Please correlate clinically. 

Discharge Labs:
===============
___ 05:37AM BLOOD WBC-9.0 RBC-4.25 Hgb-11.5 Hct-37.0 MCV-87 
MCH-27.1 MCHC-31.1* RDW-12.8 RDWSD-40.4 Plt ___
___ 05:49AM BLOOD Glucose-66* UreaN-8 Creat-0.6 Na-140 
K-4.0 Cl-103 HCO3-24 AnGap-13
___ 06:00AM BLOOD ALT-37 AST-33 AlkPhos-42 TotBili-0.2
___ 06:00AM BLOOD Calcium-9.1 Phos-3.8 Mg-2.___ w SLE on pred/hydroxychloroquine, B breast reduction 
___, ___, trochanteric bursitis p/w sepsis, presumed ___ 
cellulitis.

ACUTE/ACTIVE PROBLEMS:
# Sepsis
# Cellulitis
Presented with fever and leukocytosis along with breast erythema 
and warmth consistent with cellulitis after recent breast 
reduction surgery. Had some back pain and trochanteric bursae 
pain but these were minor and thought to be secondary to fever 
rather than primary. CXR and UA were unremarkable. She was 
reporting severe headache in the ED and as a result underwent an 
LP which was negative for pleocytosis.
She was started on vancomycin and ceftriaxone. US of the breasts 
revealed bilateral fluid collections. She was followed by 
plastic surgery during the hospital stay who felt that the fluid 
collections represented post-op seromas with no concern for 
abscess at this time.
Her fevers and leukocytosis resolved on IV antibiotics and she 
was transitioned to Bactrim and Keflex to complete a 10 day 
course finishing on ___.

# SLE: c/b sicca syndrome, not apparently flaring and otherwise 
in remission. Increased home prednisone 2mg po qd to 6mg daily 
for three days while ill. She was restarted on home dose of 2mg 
at discharge

# GERD: continued home PPI (note is BID, can consider decreasing 
as an outpatient)

# Rhinitis, glaucoma, cataracts, allergies: continued home eye 
drops and allergy meds and held home azelastine as non-formulary

# Depression
Continued home duloxetine

> 30 minutes spent on discharge coordination and planning

Transitional Issues:
====================
- discharged on Bactrim and Keflex for a 10 day course finishing 
on ___
- note that patient is taking pilocarpine BID rather than QID as 
prescribed due to hot flashes/sweating with the medicine. 
Advised pt to resumed QID but to discuss with her outpatient 
providers to see if BID is reasonable
- note that patient is on BID PPI, can consider decreasing to QD 
or weaning if able given risks
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PredniSONE 2 mg PO DAILY 
2. azelastine 0.15 % (205.5 mcg) nasal QPM 
3. Hydroxychloroquine Sulfate 400 mg PO DAILY 
4. LORazepam 0.5-1 mg PO QHS:PRN insomnia 
5. Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line 
6. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
7. Betamethasone Dipro 0.05% Cream 1 Appl TP 2X/WEEK (MO,FR) 
8. Montelukast 10 mg PO DAILY 
9. flaxseed oil 1,000 mg oral DAILY 
10. pilocarpine HCl 5 mg oral BID 
11. Pantoprazole 40 mg PO Q12H 
12. Calcium 600 with Vitamin D3 (calcium carbonate-vitamin D3) 
600 mg(1,500mg) -400 unit oral BID 
13. Cetirizine 10 mg PO DAILY 
14. DULoxetine ___ 100 mg PO DAILY 
15. Bisacodyl 10 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever  
2.  Cephalexin 500 mg PO QID 
RX *cephalexin 500 mg 1 tablet(s) by mouth four times a day Disp 
#*28 Tablet Refills:*0 
3.  Sulfameth/Trimethoprim DS 2 TAB PO BID 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 2 tab-cap by 
mouth twice a day Disp #*28 Tablet Refills:*0 
4.  pilocarpine HCl 5 mg oral QID 
Please discuss with your eye doctor to see whether twice a day 
is reasonable  
5.  azelastine 0.15 % (205.5 mcg) nasal QPM  
6.  Betamethasone Dipro 0.05% Cream 1 Appl TP 2X/WEEK (MO,FR)  
7.  Bisacodyl 10 mg PO DAILY  
8.  Calcium 600 with Vitamin D3 (calcium carbonate-vitamin D3) 
600 mg(1,500mg) -400 unit oral BID  
9.  Cetirizine 10 mg PO DAILY  
10.  DULoxetine ___ 100 mg PO DAILY  
11.  flaxseed oil 1,000 mg oral DAILY  
12.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  
13.  Hydroxychloroquine Sulfate 400 mg PO DAILY  
14.  LORazepam 0.5-1 mg PO QHS:PRN insomnia  
15.  Montelukast 10 mg PO DAILY  
16.  Pantoprazole 40 mg PO Q12H  
17.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line  
18.  PredniSONE 2 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
sepsis
cellulitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you. You were admitted for fever. 
We think this is from a skin infection after your breast surgery 
(cellulitis) for which you were treated with antibiotics. 
Please complete the course of antibiotics as prescribed.

If you notice that the redness is returning or getting worse, 
please call your primary doctor or return to the ED.

It was a pleasure taking care of you, and we are happy that 
you're feeling better!
 
Followup Instructions:
___